US08440666B2
2-{5-Cyclopropyl-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}-N-(pyridin-4-ylmethyl)acetamide
2-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}-N-(pyridin-4-ylmethyl)acetamide (62 mg, 0.131 mmol), cyclopropylboronic acid (45 mg, 0.524 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) (13 mg, 0.013 mmol) and potassium carbonate (72 mg, 0.524 mmol) in 1,4-dioxane-water (9/1, 0.7 mL) were stirred in a nitrogen stream at 100° C. for 6 hours. After cooling the reaction solution was concentrated, and the resulting residue was purified by silica gel chromatography (chloroform/methanol=8/1) to give the desired product (42 mg, 74% yield).

reactant | 2-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}-N-(pyridin-4-ylmethyl)acetamide | 0.131 mmol, 62 mg | BrC1=C(C=NN(C1=O)CC(=O)NCC1=CC=NC=C1)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C22H28BrN5O2
reactant | cyclopropylboronic acid | 0.524 mmol, 45 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium carbonate | 0.524 mmol, 72 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane water | 0.7 mL | O1CCOCC1.O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 0.013 mmol, 13 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-{5-Cyclopropyl-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}-N-(pyridin-4-ylmethyl)acetamide | 42 mg, 74% yield | C1(CC1)C1=C(C=NN(C1=O)CC(=O)NCC1=CC=NC=C1)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C25H33N5O2
